US05223539
4-bromo-N-cyclohexyl-N-cyclopentylbenzamide
To a cold (+5° C.) stirred solution of N-cyclopentyl-N-cyclohexyl amine (4.0 g, 24 mmol) and triethylamine (2.5 g, 24 mmol) in tetrahydrofuran (50 ml) was added dropwise a solution of 4-bromobenzoyl chloride (5.0 g, 23 mmol) in tetrahydrofuran (20 ml). The reaction was stirred at room temperature overnight and worked up by diluting with water and ethyl acetate. The layers were separated and the organic layer was washed twice with 0.5N KHSO4, twice with 5% NaHCO3, and once with saturated aqueous NaCl solution. After drying over MgSO4, the drying agent was filtered, the filtrate concentrated in vacuo, and the residue recrystallized from cyclohexane to give the title compound: m. p. 110-112° C.

reactant | N-cyclopentyl-N-cyclohexyl amine | 24 mmol, 4.0 g | C1(CCCC1)NC1CCCCC1 | C11H21N
reactant | triethylamine | 24 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzoyl chloride | 23 mmol, 5.0 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-N-cyclohexyl-N-cyclopentylbenzamide | BrC1=CC=C(C(=O)N(C2CCCC2)C2CCCCC2)C=C1 | C18H24BrNO
